US06306887B1
B. 3-[3-(1-Amino-3-methyl-butyl)-isoxazol-5-yl]-3-oxo-propionic acid ethyl ester hydrochloride
A solution of 3-[3-(1-tert-butoxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-3-oxo-propionic acid ethyl ester (1.4 g, 3.9 mmol) in 4M HCl in dioxane (5 ml) was stirred at room temperature. After 3 h the mixture was concentrated under reduced pressure to give the title compound as a pale yellow solid. MS [M+1]+ 269.0.

reactant | 3-[3-(1-tert-butoxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-3-oxo-propionic acid ethyl ester | 3.9 mmol, 1.4 g | C(C)OC(CC(=O)C1=CC(=NO1)C(CC(C)C)NC(=O)OC(C)(C)C)=O | C18H28N2O6
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(1-Amino-3-methyl-butyl)-isoxazol-5-yl]-3-oxo-propionic acid ethyl ester hydrochloride | Cl.C(C)OC(CC(=O)C1=CC(=NO1)C(CC(C)C)N)=O | InChI=1S/C13H20N2O4.ClH/c1-4-18-13(17)7-11(16)12-6-10(15-19-12)9(14)5-8(2)3;/h6,8-9H,4-5,7,14H2,1-3H3;1H
